2163-09-08 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2163-9-7**] 01:01 PM
 ARTERIAL LINE - START [**2163-9-7**] 02:00 PM
 THORACENTESIS - At [**2163-9-7**] 05:00 PM
 THORACENTESIS - At [**2163-9-7**] 06:00 PM
   - pRBCs x2 units
   - Albumin 25g IV x1
   - NG tube: 700ml bilious + fecal output
   - Still requiring phenylephrine to maintain MAP>60
   Allergies:
   Nsaids
   Abdominal pain;
   Aspirin
   Abdominal pain;
   Allopurinol
   Rash;
   Ampicillin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2163-9-7**] 09:15 PM
   Metronidazole - [**2163-9-8**] 01:00 AM
   Cefipime - [**2163-9-8**] 06:00 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2163-9-7**] 01:20 PM
   Metoprolol - [**2163-9-7**] 01:25 PM
   Morphine Sulfate - [**2163-9-8**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Reports breathing is comfortable. Denies pain or discomfort. Slept
   well. No complaints.
   Flowsheet Data as of  [**2163-9-8**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 34.8
C (94.7
   HR: 127 (122 - 168) bpm
   BP: 106/62(76) {85/51(65) - 133/124(128)} mmHg
   RR: 28 (21 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  6,387 mL
                                                                  1,520 mL
   PO:
   TF:
   IVF:
                                                                  3,964 mL
                                                                  1,176 mL
   Blood products:
                                                                  1,048 mL
                                                                    344 mL
   Total out:
                                                                  1,685 mL
                                                                    290 mL
   Urine:
                                                                  1,685 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,702 mL
                                                                  1,230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.40/33/110/21/-2
   PaO2 / FiO2: 110
   Physical Examination
   General: Appears uncomfortable today with frequent, shallow breaths;
   pale in appearance
   Pulm: Anterior auscultation; decreased breath sounds bibasilar
   CV: Tachycardic; normal S1/S2; no murmurs appreciated
   Abd: Markedly distended; normoactive bowel sounds best appreciated in
   LLQ; dull to percussion throughout; nontender; no masses appreciated
   Ext: Warm, well-perfused extremities; 1+ pitting edema lower
   extremities bilaterally
   Labs / Radiology
   33 K/uL
   8.2 g/dL
   135 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.1 mEq/L
   34 mg/dL
   102 mEq/L
   133 mEq/L
   23.2 %
   0.2 K/uL
        [image002.jpg]
   INR 1.3
   ALT 27
   AST 48
   Alk phos 79
   LDH 440
   Tbili 4.0
   Albumin 1.8
                            [**2163-9-7**]  01:49 PM
                            [**2163-9-7**]  02:04 PM
                            [**2163-9-7**]  10:36 PM
                            [**2163-9-8**]  05:24 AM
   WBC
   0.3
   0.2
   0.2
   Hct
   23.8
   21.9
   23.2
   Plt
   15
   53
   33
   Cr
   0.6
   0.6
   TCO2
   21
   Glucose
   115
   135
   Other labs: PT / PTT / INR:14.7/30.9/1.3, ALT / AST:27/48, Alk Phos / T
   Bili:79/4.0, Lactic Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:440 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Blood culture ([**9-5**], [**9-7**])
 No growth to date
   Urine culture ([**9-3**])
 No growth
   Assessment and Plan
   68F with DLBCL unresponsive to chemo now day ?16 from most recent
   [**Hospital 2033**] transferred to ICU on [**2163-9-7**] in the setting of hypotension and
   tachycardia found to have tamponade-like physiologic on bedside echo
   thought d/t extrinsic compression on LV from pleural effusion, ascites.
   # Hypotension: Most likely due to tamponade-like physiology given above
   with extrinsic compression of LV worsened by IVC compression and
   decreased venous return.  This is further suggested by her more acute
   decompensation following IV lasix this am.  Given her neutropenia and
   recent R-CHOP, must also explore other causes of hypotension including
   sepsis and adrenal insufficiency.  Urine cultures from [**8-31**] and [**9-3**]
   have been negative and blood cultures from [**9-5**] have shown no growth
   to date (no other culture data from this admission and cultures from
   last admission are all negative).  No clear localizing symptoms of
   infection and abdominal pain/distention seems most likely d/t ileus,
   abdominal lymphoma and worsening ascites as opposed to clear source of
   infection.  She's has been on empiric cipro/flagyl since [**9-3**],
   transitioned to cefepime/vanco/flagyl this am.  Not entirely clear when
   last dose of prednisone with R-CHOP delivered, but also seems less
   likely etiology given acuity of decompensation.  Was hyponatremic
   (since resolved after IVFs) with urine Na <10 suggestive of
   hypovolemia, but certainly not sole cause of her marked hypotension.
        S/p bilateral thoracentesis with approximately 1400ml fluid
   removal. Appropriate [**Last Name (un) **] response.
   - Continue on neosynephrine with goal MAPs >60
   - Consider paracentesis in am (bedside ultrasound shows dilated loops
   of bowel with smaller pockets of fluid)
   - IVF bolus for increasing pressor requirement or low UOP; acknowledge
   needs preload in the above setting, however she is 3rd spacing a
   significant amount of crystalloid delivered.
   - Follow blood and urine cultures
   - Continue broad spectrum antibiotics with cefepime/vanco/flagyl
   # SOB/hypoxia:  In the setting of large bilateral pleural effusions now
   s/p bilateral thoracenteses.  Maintaining O2 sats 98-100% on NRB and
   symptomatically slightly improved after [**Female First Name (un) **].
   - Attempt to wean O2 as we are able
   # DLBCL:  Unresponsive to chemo thus far.  Will defer to oncology team
   regarding this, however, will continue to address goals of care with
   patient and family.
   # Pancytopenia:  In the setting of recent rx for DLBCL.
   - continue to monitor counts
   - neutropenic precautions
   # Ileus/abdominal distention:  Likely ileus in the setting of
   narcotics.  No clear transition point to suggest obstruction on
   imaging.  Appreciate surgery recs.
   - NPO
   - NGT to suction currently
   - As unable to take narcan PO, speak to pharmacy regarding other
   premotility agents that are not PO; cannot take PR either given
   neutropenia
   - Serial abdominal exams
   # Elevated t. bili:  AST mildly elevated, but ALT and alk phos normal.
   RUQ U/S without clear evidence of obstruction.  Bili mainly direct. LDH
   up (in setting of her lymphoma) and haptoglobin elevated on [**9-5**] (as
   acute phase reactant) so seems unlikely due to hemolysis.  No clear
   meds that might cause cholestatic picture, however will review with
   pharmacy.  ? cholestasis in setting of sepsis.
   - Continue to trend
   # Hyponatremia:  As low as 127 this am with urine lytes c/w prerenal
   etiology (Urine Na <10).  Has since normalized after receiving several
   liters of IV NS.
   - Continue to monitor
   # Left shoulder Pain: Chronic issue, documented at office vist in
   [**Month (only) 779**].  Pain has progressed and pt now reported tingling in left
   fingertips. ROM limited due to pain. Xray on previous admission w/ OA
   of left shoulder joint however pt's symptoms appear more muscular/nerve
   related. ? of lymphomatous nerve compression, cervical spine
   abnormality.
   - morphine for pain control currently
   # GERD:  Continue PPI.
   # FEN:  Nutrition status very poor with albumin of 1.8.  Holding
   enteral feeding given ileus and abdominal distention.  Addtionally has
   only double lumen PICC through which abx, pressors, and IVFs going;
   thus no access for TPN at this time anyhow.
   - nutrition c/s for TPN recs
   # Proph:  Thrombocytopenic to 20K.  Pneumoboots when plts >50K.
   # Code:  FULL, confirmed with HCP Dr. [**First Name8 (NamePattern2) **] [**Known lastname 2021**].  Given her
   critical illness and malignancy unresponsive to chemo to date, will
   readdress goals of care with patient and family
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2163-9-7**] 01:01 PM
   Arterial Line - [**2163-9-7**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-09-09 07:46:00 Physician Resident Progress Note
Chief Complaint: fatigue, shortness of breath
   24 Hour Events:
   Pt made CMO
 ARTERIAL LINE - STOP [**2163-9-8**] 03:58 PM
   Allergies:
   Nsaids
   Abdominal pain;
   Aspirin
   Abdominal pain;
   Allopurinol
   Rash;
   Ampicillin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2163-9-8**] 06:00 AM
   Metronidazole - [**2163-9-8**] 08:45 AM
   Vancomycin - [**2163-9-8**] 09:15 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-9-8**] 11:15 AM
   Morphine Sulfate - [**2163-9-9**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-9**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 124 (115 - 171) bpm
   BP: 86/79(83) {81/56(66) - 105/79(83)} mmHg
   RR: 29 (14 - 35) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  2,121 mL
                  PO:
                  TF:
   IVF:
                                                                  1,746 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    910 mL
                                                                     40 mL
   Urine:
                                                                    910 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,211 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   33 K/uL
   8.2 g/dL
   108 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   32 mg/dL
   105 mEq/L
   135 mEq/L
   23.8 %
   0.2 K/uL
                            [**2163-9-7**]  01:49 PM
                            [**2163-9-7**]  02:04 PM
                            [**2163-9-7**]  10:36 PM
                            [**2163-9-8**]  05:24 AM
                            [**2163-9-8**]  08:20 AM
   WBC
   0.3
   0.2
   0.2
   Hct
   23.8
   21.9
   23.2
   23.8
   Plt
   15
   53
   33
   Cr
   0.6
   0.6
   0.6
   TCO2
   21
   Glucose
   115
   135
   108
   Other labs: PT / PTT / INR:14.8/30.0/1.3, ALT / AST:26/45, Alk Phos / T
   Bili:73/4.6, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL,
   LDH:312 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 PLEURAL EFFUSION, ACUTE
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
   68F with DLBCL unresponsive to chemo now day ?16 from most recent
   [**Hospital 2033**] transferred to ICU on [**2163-9-7**] in the setting of hypotension and
   tachycardia found to have tamponade-like physiologic on bedside echo
   thought d/t extrinsic compression on LV from pleural effusion, ascites.
   # CMO: Pt HCP decided yesterday that the patient will be made DNR/DNI
   and will pursue CMO.  Pressors, antibiotics, and other treatments were
   stopped.  The patient has been made comfortable and is receiving
   morphine prn.  Will start low dose morphine drip and additional
   morphine prn.  Will remove O2 sat monitoring.  Will monitor patient for
   pain/discomfort.  Discussed plan with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2163-9-7**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Comfort measures only
   Disposition:ICU
   ------ Protected Section ------
   MICU Attending Addendum
   Pt seen and examined on rounds.
   Plans as above
   Will start on low dose Morphine drip
 titrate to comfort.
   Met with Dr [**Known lastname 2021**] who is pleased with the plan and her level of
   comfort at present.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 202**], MD
   on:[**2163-9-9**] 11:51 ------